US04137408
From 7.0 g. of 6-[4-(2-pyridylaminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinic acid in 200 ml. of thionyl chloride, and 1.5 ml. of dimethylformamide, following the procedure of c) above, there is obtained 6-[4-(2-pyridylaminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinyl chloride hydrochloride.

reactant | 6-[4-(2-pyridylaminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinic acid | N1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C17H13N3O5S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-[4-(2-pyridylaminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinyl chloride hydrochloride | Cl.N1=C(C=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C=1NC(C(CCl)=CC1)=O | InChI=1S/C17H14ClN3O3S.ClH/c18-11-13-6-9-15(20-17(13)22)12-4-7-14(8-5-12)25(23,24)21-16-3-1-2-10-19-16;/h1-10H,11H2,(H,19,21)(H,20,22);1H
